US07399759B2
2-(5,6,7,8-Tetrahydro-2-quinolyl)-4H-1,3-benzothiazine-4-one
A mixture of methyl thiosalicylate (0.43 g, 2.5 mmol), 2-cyano-5,6,7,8-tetrahydroquinoline (0.40 g, 2.5 mmol), triethylamine (0.50 ml, 3.8 mmol) and toluene (2.0 ml) was refluxed for 17 hrs. After cooling, the precipitated crystals were collected by filtration and recrystallized from ethanol to give the titled compound (0.22 g, 30%)

reactant | methyl thiosalicylate | 2.5 mmol, 0.43 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 2-cyano-5,6,7,8-tetrahydroquinoline | 2.5 mmol, 0.40 g | C(#N)C1=NC=2CCCCC2C=C1 | C10H10N2
reactant | triethylamine | 3.8 mmol, 0.50 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 2.0 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(5,6,7,8-Tetrahydro-2-quinolyl)-4H-1,3-benzothiazine-4-one | 0.22 g, 30% | N1=C(C=CC=2CCCCC12)C=1SC2=C(C(N1)=O)C=CC=C2 | C17H14N2OS
